US08703807B2
Step 2: 8-Cyanomethyl-1,4-dioxa-spiro[4.5]decane-8-carboxylic acid ethyl ester
To a stirred solution of diisopropylamine (10.09 ml, 69.76 mmol) in THF (150 ml) was added nBuLi (1.9 M solution in hexane, 26.09 ml, 51.1 mmol) drop wise at −40° C. followed by HMPA (31.0 ml, 178.0 mmol) under nitrogen atmosphere, and the reaction mixture was stirred for 30 minutes at −40° C. It was then cooled further to −78° C., and a solution of 1,4-dioxa-spiro[4.5]decane-8-carboxylic acid ethyl ester (10 g, 46.5 mmol) in THF (20 ml) was added keeping the temperature below −70° C. throughout the addition. After stirring for 25 min at −78° C., bromoacetonitrile (3.8 ml, 55.8 mmol) was added slowly, and the reaction mixture was then allowed to warm to 25° C. The mixture was poured into cold water (100 ml) and the aqueous layer was extracted with EtOAc (5×70 ml). The combined organic layer was washed successively with saturated aqueous solution of NH4Cl (3×50 ml), H2O (2×50 ml) and then with brine (1×40 ml), dried (Na2SO4), filtered and evaporated in vacuo. The crude compound obtained was purified by column chromatography over silica gel (22-25% EtOAc/hexane) to give the title compound (6 g) as a pale yellow liquid. MS (m/e): 254.2 [MH+].

reactant | diisopropylamine | 69.76 mmol, 10.09 ml | C(C)(C)NC(C)C | C6H15N
reactant | nBuLi | 51.1 mmol, 1.9 M, 26.09 ml | [Li]CCCC
reactant | HMPA | 178.0 mmol, 31.0 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | 1,4-dioxa-spiro[4.5]decane-8-carboxylic acid ethyl ester | 46.5 mmol, 10 g | C(C)OC(=O)C1CCC2(OCCO2)CC1 | C11H18O4
reactant | bromoacetonitrile | 55.8 mmol, 3.8 ml | BrCC#N | C2H2BrN
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 8-Cyanomethyl-1,4-dioxa-spiro[4.5]decane-8-carboxylic acid ethyl ester | 6 g | C(C)OC(=O)C1(CCC2(OCCO2)CC1)CC#N | C13H19NO4
